US06319946B1
4-(1,3-dioxolan-2-yl)-4-methylpentyl azide
A solution of 0.74 g (3.8 mmol) of 2-(4-chloro-1,1-dimethylbutyl)-1,3-dioxolane and 0.50 g (7.7 mmol) of sodium azide in 5 mL of DMSO was heated to 100° C. with stirring. After 18 hours the solution was cooled to RT, diluted with water, and the mixture extracted with ether (3×). The combined ether extracts were washed with water (3×), dried over MgSO4, and concentrated in vacuo to afford 0.69 g (90%) of the desired compound as a light yellow liquid.

reactant | 2-(4-chloro-1,1-dimethylbutyl)-1,3-dioxolane | 3.8 mmol, 0.74 g | ClCCCC(C)(C)C1OCCO1 | C9H17ClO2
reactant | sodium azide | 7.7 mmol, 0.50 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(1,3-dioxolan-2-yl)-4-methylpentyl azide | 0.69 g, 90% | O1C(OCC1)C(CCCN=[N+]=[N-])(C)C | C9H17N3O2
